US04876354
A solution of 4.05 g (20 mmol) of 2-(3-methyl-1-adamant-yl)-acetaldehyde (95% pure) in 40 ml of absolute THF was added, at about -60° C., to a solution of 20 mmol of lithium-N-(3-chlorobenzyl)-imidazole in THF/hexane, the said solution being prepared analogously to Example 105, and the mixture was stirred for 45 minutes at about -60° C. and for 1.75 hours at -60° C. to room temperature. After about 200 ml of water had been added, the mixture was extracted with ether. The residue (8.8 g) from the ether extract was crystallized from diisopropyl ether, and the product obtained was then recrystallized from acetonitrile. After isolation, 1.90 g (=24.7% of theory) of 2-(3-chlorophenyl)-2-(1-imidazolyl)-1-(3-methyladamant-1-ylmethyl)-ethanol of melting point 126° C. were obtained as a diastereomer which was pure according to thin layer chromatography. According to thin layer chromatography, the mother liquor contained further amounts of the same diastereomer, and the other diastereomer as the principal component.

reactant | 2-(3-methyl-1-adamant-yl)-acetaldehyde | 20 mmol, 4.05 g | CC12CC3(CC(CC(C1)C3)C2)CC=O | C13H20O
reactant | lithium N-(3-chlorobenzyl)-imidazole | 20 mmol | [Li].ClC=1C=C(CN2C=NC=C2)C=CC1
reactant | water | about 200 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF hexane | C1CCOC1.CCCCCC
product | 2-(3-chlorophenyl)-2-(1-imidazolyl)-1-(3-methyladamant-1-ylmethyl)-ethanol | 1.90 g, 24.7% | ClC=1C=C(C=CC1)C(C(O)CC12CC3(CC(CC(C1)C3)C2)C)N2C=NC=C2 | C23H29ClN2O
